US07855192B2
3-Amino-5-chlorobenzoic acid hydrochloride.
A mixture of 3-chloro-5-nitrobenzoic acid (10.0 g) and 10% Pd/C (0.3 g) in MeOH (100 mL) and 6N HCl (30 mL) was shaken under 30 psi H2 in a Parr apparatus for 30 min, then filtered through Celite and evaporated. The residue was crystallized from 6N HCl to yield the product. More highly purified material was obtained by a second crystallization from water. 1H-NMR (d4-CD3OD): δ 7.24 (1H, dd, J=1.4, 2.0 Hz), 7.20 (1H, dd, J=1.6, 2.0 Hz), 6.87 (1H, t, J=2.0 Hz). 13C-NMR (d4-CD3OD): δ 167.6, 149.5, 134.3, 132.7, 117.8, 117.4, 113.9.

reactant | 3-chloro-5-nitrobenzoic acid | 10.0 g | ClC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4ClNO4
reactant | water | O | H2O
solvent | MeOH | 100 mL | CO | CH4O
solvent | HCl | 6N, 30 mL | Cl | ClH
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 3-Amino-5-chlorobenzoic acid hydrochloride | Cl.NC=1C=C(C(=O)O)C=C(C1)Cl | InChI=1S/C7H6ClNO2.ClH/c8-5-1-4(7(10)11)2-6(9)3-5;/h1-3H,9H2,(H,10,11);1H
